US06008213
b) 4-Allyl-3-benzylanisole
LiCl (3.08 g, 72.8 mmol) in a roundbottom flask was flame-dried in high vacuum, and the system was allowed to cool to RT under argon. 3-Benzyl-4-(trifluoromethanesulfonyloxy)anisole (21.0 g, 60.6 mmol), bis(triphenylphosphine)palladium(II) chloride (2.13 g, 3.0 mmol), anhydrous DMF (150 mL), and allyltributyltin (22.6 mL, 72.8 mmol) were added, and the mixture was purged with argon through three evacuation/argon flush cycles. The mixture was heated in an oil bath preset at 95° C., affording a yellow, homogeneous solution. After 1.5 h, the dark mixture was concentrated on the rotavap (high vacuum), and the residue was reconcentrated from xylenes. The resulting residue was taken up in Et2O (120 mL) and stirred briskly with 10% KF (120 mL) for 0.5 h. The layers were separated, and the aqueous layer was extracted with Et2O (2×120 mL). The combined organics were filtered through celite® to remove the insoluble solids, and the filtrate was washed sequentially with H2O (60 mL) and brine (60 mL). Drying (MgSO4) and concentration left a cloudy, yellow oil. Chromatography (silica gel, 5% EtOAc/hexanes) gave the title compound as a light yellow oil (14.21 g, 98%): TLC Rf (5% EtOAc/hexanes) 0.51; 1H NMR (250 MHz, CDCl3) δ 7.03-7.31 (m, 6H), 6.74 (dd, J=8.3, 2.7 Hz, 1H), 6.66 (d, J=2.7 Hz, 1H), 5.79-5.98 (m, 1H), 4.89-5.07 (m, 2H), 3.97 (s, 2H), 3.75 (s, 3H), 3.21-3.33 (m, 2H); FTIR (CCl4) 1610, 1496, 1256, 1046, 914 cm-1 ; MS (ES) m/e 239.2 (M+H)+.

reactant | LiCl | 72.8 mmol, 3.08 g | [Li+].[Cl-]
reactant | 3-Benzyl-4-(trifluoromethanesulfonyloxy)anisole | 60.6 mmol, 21.0 g | C(C1=CC=CC=C1)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)OC | C15H13F3O4S
reactant | allyltributyltin | 72.8 mmol, 22.6 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II) chloride | 3.0 mmol, 2.13 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-Allyl-3-benzylanisole | 14.21 g, 98% | C(C=C)C1=C(C=C(C=C1)OC)CC1=CC=CC=C1 | C17H18O
